Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, low-grade fevers one week s/p lap CCY
 
Major Surgical or Invasive Procedure:
1. US-guided ___ drainage of biloma

 
History of Present Illness:
Ms. ___ is a ___ who is 1 week s/p laparoscopic
cholecystectomy for biliary colic who presents to the ED today
with abdominal pain. She has been having low grade temps on and
off again for the last 3 days (max 100.7), right upper quadrant
and epigastric pain, decreased appetite. She denies chills,
nausea, emesis, jaundice, tea-colored urine, pruritis, or
diarrhea. She has been having bowel movements and has not been
taking narcotics. She called over the weekend 3 days ago and
yesterday regarding her symptoms. Yesterday, she was instructed
to go to ___ to obtain labs, which demonstrated Tbili 1.14, ALT
109 AST 55, Alk Phos 106. She then underwent an US this morning
demonstrating a moderate size subhepatic hematoma/biloma and
intra/extraductal dilation. Given these findings, she was
instructed to come to the emergency department for evaluation. 
 
Past Medical History:
PMH: cholelithiasis, obesity
PSH: none
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals- T 97.7 BP 118/78 HR 62 RR 18 SpO2 97% RA
General- well-appearing obese female in no apparent distress
Chest- no increased work of breathing, CTAB
Abd- soft, appropriately tender in RUQ, non-distended. ___ drain 
with to JP bulb suction in place in RUQ, with drain sponge 
c/d/I, with serobilious output. 
Ext- warm and well perfused, no edema 

 
Pertinent Results:
Recent labs:

___ 01:30PM BLOOD WBC-8.8# RBC-4.46 Hgb-13.4 Hct-40.6 
MCV-91 MCH-30.0 MCHC-33.0 RDW-12.8 RDWSD-42.5 Plt ___

___ 01:30PM BLOOD Glucose-91 UreaN-11 Creat-0.7 Na-141 
K-4.1 Cl-101 HCO3-26 AnGap-18

___ 01:30PM BLOOD ALT-287* AST-287* AlkPhos-183* 
TotBili-1.6*

___ 05:15AM BLOOD WBC-6.3 RBC-3.70* Hgb-11.1* Hct-33.6* 
MCV-91 MCH-30.0 MCHC-33.0 RDW-12.8 RDWSD-42.2 Plt ___

___ 05:15AM BLOOD Glucose-116* UreaN-7 Creat-0.7 Na-143 
K-4.1 Cl-106 HCO3-30 AnGap-11

___ 05:15AM BLOOD ALT-148* AST-46* AlkPhos-139* TotBili-0.8

RUQ US (___): Post cholecystectomy on ___.  
Moderate-sized
perihepatic complex fluid collection could reflect hematoma vs
bile.  Intra and extrahepatic biliary ductal dilatation are new. 

Recommend MRCP for further evaluation of complex fluid 
collection
and biliary ductal dilatation. 

MRCP (___): 1. Evidence of a bile leak demonstrated by contrast 
along the inferior margin of the liver, possibly arising from a 
cystic duct stump leak, however could also be from an accessory 
duct of Luschka.  Delayed images were obtained 4 hr after 
initial scanning and the amount of contrast along the liver edge 
is very small. 
2. No evidence of choledocholithiasis. 

US (___): Using continuous sonographic guidance, an ___ 
___ catheter was advanced into the collection.  The plastic 
stiffener and the wire were removed. Pigtail was deployed, and 
the position of the pigtail was confirmed within the collection 
via ultrasound. Approximately 70 cc of relatively clear, 
amber-colored fluid was drained with a sample sent for 
microbiology evaluation. The catheter was secured by a StatLock. 
The catheter was attached to suction bulb. Sterile dressing was 
applied. 

 
Brief Hospital Course:
The patient was admitted to the general surgery service on ___ 
with complaints of abdominal pain and low-grade fevers at home. 
The patient was one week s/p laparoscopic cholecystectomy for a 
history of choledocholithiasis. RUQ US was done in the ER which 
showed a perihepatic fluid collection, concerning for biloma. 
The patient was admitted and taken for MRCP the next day (___), 
which showed a bile leak, possibly from the cystic duct stump 
versus an accessory duct of Luschka. The patient was then taken 
the subsequent day (___) for US-guided ___ drainage of the 
biloma. An ___ pigtail catheter was placed with JP bulb 
suction, with initial aspiration of 70cc of serobilious fluid. 
After the procedure, the patient was advanced to a regular diet 
as tolerated and discharged home in stable condition with the 
drain in place. She received drain care teaching, but she did 
not ask for ___ care because her mother is a ___ and able to 
assist her daily at home. Her pain was well controlled, she 
voided regularly, and she ambulated without difficulty prior to 
discharge. 

 
Medications on Admission:
Claritin 10mg daily prn
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Ondansetron ___ mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours Disp 
#*20 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four to six hours 
Disp #*20 Tablet Refills:*0 
4. Claritin 10mg daily prn

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. biloma
2. bile leak

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the general surgery service one week after 
your laparoscopic cholecystectomy (___) with complaints of 
abdominal pain and low-grade fever, and you were found to have a 
biloma (bile collection). You underwent MRCP imaging which 
showed a bile leak and then you underwent US-guided ___ drainage 
of the biloma. You did not require antibiotics and your 
abdominal pain improved by the time of discharge. You were 
tolerating a regular diet and ambulating well prior to 
discharge. You will follow up with Dr. ___ in clinic in two 
weeks. 
 
Followup Instructions:
___